US08541596B2
N,N-Bis(4-(thiophen-2-yl)benzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 4-(thiophen-2-yl)benzylbromide (557 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.09 g (18.9%); MS m/z: 478.4 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.70 (s, 4H); 6.73 (br s, 1H); 6.78 (dd, 1H, 4J=2.1 Hz, 3J=8.9 Hz); 7.10-7.11 (m, 2H); 7.33-7.36 (m, 5H); 7.45 (dd, 2H); 7.49 (dd, 2H); 7.59-7.60 (m, 4H); 7.91 (s, 1H); 11.99 (br s, 1H); HPLC (METHOD [A]): rt 19.76 min (100%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(thiophen-2-yl)benzylbromide | 2.2 mmol, 557 mg, 2.2 eq. | S1C(=CC=C1)C1=CC=C(CBr)C=C1 | C11H9BrS
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(4-(thiophen-2-yl)benzyl)-1H-benzo[d]imidazol-5-amine | S1C(=CC=C1)C1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)C=2SC=CC2)C=C1 | C29H23N3S2
